US04036913
Diphenyl α-dimethylaminosulfonylaminobenzylphosphonate.
A mixture of 0.25 mole each of triphenyl phosphite, benzaldehyde, and N,N-dimethylsulfamide in 130g of chlorobenzene is warmed at 115° C. for 1.5 hrs. After the reaction mixture cools to room temperature, 41.0g (36% yield) of crude product is isolated by filtration. It is washed with water and recrystallized from chlorobenzene, giving a white solid: mp 193°-196°; 31P nmr (DMSO-d6) -14.0 ppm(d, J = 28Hz); 1H nmr δ8.8(d of d, 1, J = 2 and 11, NH), 6.8-7.8(m, 15, aryl), 5.2(d of d, 1, J = 10 and 25Hz, CH), 2.4(s, 6, CH3).

reactant | triphenyl phosphite | 0.25 mole | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N,N-dimethylsulfamide | CN(S(=O)(=O)N)C | C2H8N2O2S
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | Diphenyl α-dimethylaminosulfonylaminobenzylphosphonate | 41.0g, 36% yield | CN(S(=O)(=O)NC(C1=CC=CC=C1)P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O)C | C21H23N2O5PS
